US07989497B2
Step 2: (R)-1-(tetrahydrofuran-2-yl)propan-1-one
To a cooled (0° C.) solution of (R)-N-methoxy-N-methyltetrahydrofuran-2-carboxamide (20.15 g, 1 equiv) in THF (250 ml) was added ethyl magnesium bromide (44.3 ml of a 3M solution in THF, 1.05 equiv) The reaction was stirred at −78° C. for 1 h and then quenched with saturated NH4Cl solution. EtOAc was added and the organic portion was separated and washed further with saturated NH4Cl solution, dried (MgSO4) and concentrated in vacuo to afford the title compound; NMR (CDCl3) 1.05 (3H, t, CH3), 1.9 (3H, m), 2.2 (1H, m, CH), 2.6 (2H, m, CH2), 3.95 (2H, CH2O), 4.3 (1H, m, CHO).

reactant | (R)-N-methoxy-N-methyltetrahydrofuran-2-carboxamide | 20.15 g, 1 equiv | CON(C(=O)[C@@H]1OCCC1)C | C7H13NO3
reactant | ethyl magnesium bromide | C(C)[Mg]Br
solvent | THF | 250 ml | C1CCOC1 | C4H8O
product | (R)-1-(tetrahydrofuran-2-yl)propan-1-one | O1[C@H](CCC1)C(CC)=O | C7H12O2
